### PR TITLE
Implement `RuntimeValue.Conforms`

### PR DESCRIPTION
**Pull request by math-fehr**
This checks that a `RuntimeValue` in the interpreter represents a valid value of a `TypeAttr`.

This will be used in the interpreter state to check that dynamic values conform correctly to their MLIR types.

### CODE REVIEW

File: Veir/Interpreter/Basic.lean [hunk 1]
```diff
@@ -45,6 +45,52 @@ instance : ToString (RuntimeValue) where
...
+  | _, _ => False
+
+instance : Decidable (Conforms val ty) := by
+  unfold Conforms
+  split <;> infer_instance
+
+@[grind <=]
+theorem Conforms.integerType :
+    Conforms runtimeValue (⟨.integerType intType, h⟩ : TypeAttr)
+    → ∃ val, runtimeValue = .int intType.bitwidth val := by
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]:
```suggestion
    Conforms runtimeValue (⟨.integerType intType, h⟩ : TypeAttr) →
      ∃ val, runtimeValue = .int intType.bitwidth val := by
```

File: Veir/Interpreter/Basic.lean [hunk 2]
```diff
@@ -45,6 +45,52 @@ instance : ToString (RuntimeValue) where
...
+  case int bw val =>
+    simp only [int.injEq, exists_and_left]
+    intro _; subst bw
+    grind
+  all_goals grind
+
+@[grind <=]
+theorem Conforms.registerType :
+    Conforms runtimeValue (⟨.registerType regType, h⟩ : TypeAttr)
+    → ∃ val, runtimeValue = .reg val := by
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]:
```suggestion
    Conforms runtimeValue (⟨.registerType regType, h⟩ : TypeAttr) →
      ∃ val, runtimeValue = .reg val := by
```

File: Veir/Interpreter/Basic.lean [hunk 3]
```diff
@@ -45,6 +45,52 @@ instance : ToString (RuntimeValue) where
...
+  simp only [Conforms]
+  cases runtimeValue <;> grind
+
+@[grind <=]
+theorem Conforms.llvmPointerType :
+    Conforms runtimeValue (⟨.llvmPointerType _, h⟩ : TypeAttr)
+    → ∃ val, runtimeValue = .addr val := by
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]:
```suggestion
    Conforms runtimeValue (⟨.llvmPointerType _, h⟩ : TypeAttr) →
      ∃ val, runtimeValue = .addr val := by
```

**Review by ineol — APPROVED** [review]

File: Veir/Interpreter/Basic.lean [hunk 4]
```diff
@@ -45,6 +45,52 @@ instance : ToString (RuntimeValue) where
...
+@[grind <=]
+theorem Conforms.registerType :
+    Conforms runtimeValue (⟨.registerType regType, h⟩ : TypeAttr)
+    → ∃ val, runtimeValue = .reg val := by
+  simp only [Conforms]
+  cases runtimeValue <;> grind
+
+@[grind <=]
+theorem Conforms.llvmPointerType :
+    Conforms runtimeValue (⟨.llvmPointerType _, h⟩ : TypeAttr)
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]:
```suggestion
    Conforms runtimeValue ⟨.llvmPointerType _, h⟩
```

File: Veir/Interpreter/Basic.lean [hunk 5]
```diff
@@ -45,6 +45,52 @@ instance : ToString (RuntimeValue) where
...
+  cases runtimeValue
+  case int bw val =>
+    simp only [int.injEq, exists_and_left]
+    intro _; subst bw
+    grind
+  all_goals grind
+
+@[grind <=]
+theorem Conforms.registerType :
+    Conforms runtimeValue (⟨.registerType regType, h⟩ : TypeAttr)
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]:
```suggestion
    Conforms runtimeValue ⟨.registerType regType, h⟩
```

File: Veir/Interpreter/Basic.lean [hunk 6]
```diff
@@ -45,6 +45,52 @@ instance : ToString (RuntimeValue) where
...
+  | .addr _, ⟨.llvmPointerType _, _⟩ => True
+  | _, _ => False
+
+instance : Decidable (Conforms val ty) := by
+  unfold Conforms
+  split <;> infer_instance
+
+@[grind <=]
+theorem Conforms.integerType :
+    Conforms runtimeValue (⟨.integerType intType, h⟩ : TypeAttr)
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]:
```suggestion
    Conforms runtimeValue ⟨.integerType intType, h⟩
```

**Review by ineol — APPROVED** [review]
